US07253286B2
N-(4-[(7-Carbamoyl-6-methoxy-4-quinolyl)oxy]phenyl)-N′-(4-fluorophenyl)urea
N-(4-[(7-cyano-6-methoxy-4-quinolyl)oxy]phenyl)-N′-(4-fluorophenyl)urea (43 mg) in 1.5 ml of dimethylsulfoxide at 80° C., a 5N aqueous NaOH solution was added thereto and the mixture was heated and stirred for 2 hours. The reaction solution was neutralized with 1N HCl and the precipitated crystals were filtered out and washed with ethanol to obtain 17 mg of the title compound.

reactant | N-(4-[(7-cyano-6-methoxy-4-quinolyl)oxy]phenyl)-N′-(4-fluorophenyl)urea | 43 mg | C(#N)C1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)OC | C24H17FN4O3
reactant | NaOH | 5N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | N-(4-[(7-Carbamoyl-6-methoxy-4-quinolyl)oxy]phenyl)-N′-(4-fluorophenyl)urea | 17 mg | C(N)(=O)C1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)OC | C24H19FN4O4
